US05491144
4,5-Bis(anilino)-N(2) -methyl-phthalimide
Analogously to Example 1, 376 mg (1 mmol) of 4,5-bis(anilino)phthalic acid dimethyl ester in 33 ml of ethylene glycol are heated at 120° and, with stirring, methylamine is passed through the mixture for 18 hours. Thereaction mixture is cooled and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed onsilica gel with hexane/ethyl acetate 1:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of slightly yellow crystals, FAB-MS: 344 [M+ +H], m.p. 195°-196° C.

reactant | 4,5-bis(anilino)phthalic acid dimethyl ester | 1 mmol, 376 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H20N2O4
reactant | methylamine | CN | CH5N
solvent | ethylene glycol | 33 ml | C(CO)O | C2H6O2
product | 4,5-Bis(anilino)-N(2) -methyl-phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)N(C2=O)C)=CC1NC1=CC=CC=C1 | C21H17N3O2
